Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Lisinopril / clonidine / Toprol XL
 
Attending: ___
 
___ Complaint:
left breast cancer s/p mastectomy and lat flap reconstruction
 
Major Surgical or Invasive Procedure:
1. Left total skin-sparing mastectomy, ___.
2. Left breast reconstruction (latissimus flap with gel 
implant).
3. Revision of right breast reconstruction.

 
History of Present Illness:
This is an invasive ductal carcinoma, grade 2, with associated
high-grade ductal carcinoma in situ.  The tumor is estrogen and
progestin receptor positive, HER-2/neu not amplified, ratio 0.6. 

This had presented as a new left breast mass noted by Ms.
___.  At the time of her initial presentation, her clinical
exam was remarkable for on the  left breast, "well-healed
surgical scars consistent with reduction mammoplasty.  There was
mild concavity deep to the scar in the inferior breast. Just
medial to this, there is an approximately 3-4 cm linear firm 
area
likely consistent with post-surgical change and fat necrosis."
Same day unilateral diagnostic mammogram and ultrasound of the
left breast demonstrated Calcifications and expected
post-surgical scarring and fat necrosis, corresponding to the
area of palpable abnormality in the lower central left breast. 
Incidental 0.3 cm probably benign isoechoic nodule at 6 o'clock,
1-2 cm from the nipple.  Six month followup left mammogram and
left breast ultrasound is recommended. 

Ms ___ opted for ultrasound core biopsy of the 0.3 cm 
nodule,
which was performed ___, and positive for cancer. 
 
Ms. ___ sought a second opinion at ___ and
underwent a mammogram on ___, which showed
postoperative changes from a prior biopsy and reduction
mammoplasty. 
The clip from the core biopsy at 6 o'clock position was noted. 
Ultrasound on the same day demonstrated an ill-defined 0.5 cm
mass at the 4 o'clock position, 4-5 cm from the nipple. 
Benign-appearing left axillary nodes were noted.

On ___, Ms. ___ underwent an ultrasound core biopsy of
the mass at the 4 o'clock position, which demonstrated fat
necrosis and stromal fibrosis on it only.

Dr. ___ wire localized open surgical biopsies
of both areas previously biopsied and left axillary sentinel 
node
biopsy.  Separate specimens were taken
as well as medial margin, lateral lesion and medial lesion.  She
was found to have microinvasive ductal carcinoma extending into
the anterior margin and ductal carcinoma in situ with fat
necrosis was also noted. Zero of 4 sentinel nodes were positive
for metastatic disease. 

She then returned to ___ and sought an opinion
from Dr. ___.  
The slides from ___ were reviewed. Based upon
both the initial biopsy back in ___ (at ___  and the
surgery perfomed by Dr. ___ was concluded that the
final margins did not appear to be involved and that she was an
appropriate candidate for breast-conserving surgery.

In the meantime, Ms. ___ decided she was opting for 
mastectomy with breast reconstruction.

 
Past Medical History:
Ms. ___ has a prior history of ductal carcinoma in situ of
the right breast diagnosed ___, which was managed with a
right mastectomy and reconstruction using a TRAM flap and a
reduction mammoplasty on the left.  She had done well with
regular followup.

Her past medical history is positive for coronary artery disease
status post stent placement, hypertension, reflux, elevated
cholesterol, type 2 diabetes mellitus,recurrent UTIs and asthma. 

She has sleep apnea and uses a CPAP machine.

Her past surgical history includes eye surgery for a hole in the
macula at ___ and the angioplasty with stent in ___, as well
as her breast surgery in ___ and ___.

 
Social History:
___
Family History:
Her family history is negative for breast and ovarian cancer.
At ___, Ms. ___ underwent counseling and
genetic testing and is negative for the BRCA1 and 2 mutations 
due
to the bilateral breast cancer.

 
Physical Exam:
Initial:
BP: 119/71. Heart Rate: 59. Temperature: 97.9. Resp. Rate: 16. 
O2
Saturation%: 100.
HEENT:  Eyes:  EOMs intact.  PERLA, sclera is nonicteric. 
Oropharynx, moist mucosa without ulcerations or exudates.  Neck
is supple.  There is no thyroid enlargement or nodules.  There 
is
no cervical or supraclavicular lymphadenopathy.  The right
reconstructed breast has no rashes, skin or subcutaneous 
nodules.
The left breast demonstrates substantial volume loss inferiorly
with induration and mild edema in the same area.  There are no
dominant masses.  She has no axillary lymphadenopathy.  There is
no arm edema.  She has full range of motion of her arms and
shoulders.  She has no abnormal pigmented lesions on her torso. 
There is no tenderness to palpation of the spine and shoulders. 
Her abdomen is soft, nontender, without organomegaly or masses. 
She has no calf tenderness, no dependent edema in her lower
extremities.  Neuro is physiologic.  She has a normal gait.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a  left mastectomy with latissimus flap 
reconstruction with implant and right breast revision.  The 
patient tolerated the procedure well. 
.
Neuro: Post-operatively, the patient received Morphine PCA with 
good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications. 
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored. Her systolic BP was in 
100s on POD1, and pt was seen by cardiology, who recommended 
holding diuretics for 24hrs, and restarting once BPs >110. Pt's 
BPs remained in 110s and higher throughout rest of course.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
Endocrine: Pt has a history of diabetes. Her sugars were well 
controlled ___ with an ISS, and she was 
transitioned back to her home oral regimen prior to discharge.
.
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His/Her diet was advanced when 
appropriate, which was tolerated well. She was also started on a 
bowel regimen to encourage bowel movement. Foley was removed on 
POD#2. Intake and output were closely monitored. 
.
ID: Post-operatively, the patient was started on IV cefazolinfor 
2 doses. The patient's temperature was closely watched for signs 
of infection. 
.
Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
.
At the time of discharge on POD#6, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.
 
Medications on Admission:
 atenolol 100'', valsartan 160'', torsemide 20', spironolactone 
25', nitroglycerin 0.4 prn, atorvastatin 20', albuterol 90mcg 
prn, montelukast 10', mometasone 50mcg', ranitidine 300 qpm, 
priolosec 20 ___ 325', flovent 110mcg prn, metformin 1500'

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. metformin 500 mg Tablet Extended Release 24 hr Sig: Three (3) 
Tablet Extended Release 24 hr PO DAILY (Daily).  
3. fluticasone 110 mcg/actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
6. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
wheezing, SOB.  
8. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

10. valsartan 160 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
11. atenolol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  
14. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left breast cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for a left mastectomy with 
latissimus flap reconstruction with implant and right breast 
revision.  Please follow these discharge instructions.
.
Personal Care:  
 1. Leave your incision dressings in place x 48 hours after 
surgery, then you may remove them.  
 2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
 3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
 4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
 5. You may shower daily. No baths until instructed to do so by 
Dr. ___.  
 6. Wear your your surgibra until you follow up appointment with 
Dr. ___ in the shower!)
 .  
 Activity:  
 1. You may resume your regular diet.  
 2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___.  
 .  
 Medications:  
 1. You were seen by Cardiology for some low blood pressures.  
They recommended holding your Torsemide and your Spironolactone 
for systolic pressures <110.  Your diastolic pressures were 
often 50 or below.  You were did not experience symptoms of low 
blood pressure.  You were continued on your Valsartan and your 
Atenolol.  You should see your PCP ___ Cardiology for further 
evaluation of your blood pressures and management of your blood 
pressure medications.  
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
 4. Take prescription pain medications for pain not relieved by 
tylenol.    
 5. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
 6.  Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  
.  
 Call the office IMMEDIATELY if you have any of the following:  
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
 2. A large amount of bleeding from the incision(s) or drain(s). 
 
 3. Fever greater than 101.5 oF  
 4. Severe pain NOT relieved by your medication.  
 .  
 Return to the ER if:  
 * If you are vomiting and cannot keep in fluids or your 
medications.  
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
 * Any serious change in your symptoms, or any new symptoms that 
concern you.  
 .  
 DRAIN DISCHARGE INSTRUCTIONS  
 You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  

 
Followup Instructions:
___